US04359466
2-[4-(2-Guanidino-4-thiazolyl)butylamino]-3-nitropyrrole
The title compound is prepared from 4-(2-guanidino-4-thiazolyl)butylamine dihydrochloride and 2-methylsulphinyl-3-nitropyrrole by a process analogous to that described in Example 1.

reactant | 4-(2-guanidino-4-thiazolyl)butylamine dihydrochloride | Cl.Cl.N(C(=N)N)C=1SC=C(N1)CCCCN
reactant | 2-methylsulphinyl-3-nitropyrrole | CS(=O)C=1NC=CC1[N+](=O)[O-] | C5H6N2O3S
product | 2-[4-(2-Guanidino-4-thiazolyl)butylamino]-3-nitropyrrole | N(C(=N)N)C=1SC=C(N1)CCCCNC=1NC=CC1[N+](=O)[O-] | C12H17N7O2S
